US07547782B2
A) 4-Chloro-N-(2,4-difluorophenyl)nicotinamide
To a mixture of 4-chloronicotinic acid (Lancaster Synthesis, 0.31 g, 2.0 mmol) and 2,4-difluoroaniline (Aldrich, 0.20 mL, 2.0 mmol) in anhydrous dichloromethane (5 mL) was added bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (PyBroP®, Novabiochem, 1.4 g, 3.0 mmol) followed by diisopropylethylamine (1.1 mL, 6.4 mmol). Anhydrous DMF (2 mL) was added to the mixture and the reaction stirred at ambient temperature. After 255 hours, the reaction mixture was partitioned between chloroform and 10% LiCl (aq). The organic layer was washed three times with 10% LiCl (aq), dried over anhydrous MgSO4, then concentrated in vacuo. Purification of the residue by flash column chromatography (SiO2, eluting with 1:1 hexane/EtOAc) afforded the desired compound (0.23 g, 42%). 1H NMR (DMSO-d6) δ 10.58 (s, 1H), 8.78 (s, 1H), 8.66 (d, 1H, J=5.4 Hz), 7.82-7.88 (m, 1H), 7.71 (d, 1H, J=5.4 Hz), 7.37-7.43 (m, 1H), 7.14-7.19 (m, 1H);

reactant | 4-chloronicotinic acid | 2.0 mmol, 0.31 g | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | 2,4-difluoroaniline | 2.0 mmol, 0.20 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 3.0 mmol, 1.4 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropylethylamine | 6.4 mmol, 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-N-(2,4-difluorophenyl)nicotinamide | 0.23 g, 42% | ClC1=CC=NC=C1C(=O)NC1=C(C=C(C=C1)F)F | C12H7ClF2N2O
